US08877937B2
Synthesis of 1-(4-cyanophenyl)-3-methylimidazolium iodide
56 g (0.33 mol) of 1-(4-cyanophenyl)imidazole are dissolved in 560 ml water-free tetrahydrofuran in a 2000 ml one-necked flask with condenser, admixed with 234.2 g (1.65 mol) of methyl iodide, stirred briefly and allowed to stand for 48 hours without further stirring. The solid contents of the flask are subsequently slurried with ethanol, filtered off with suction and washed with ethanol until the washings are virtually colorless. The residue is dried at 70° C. under reduced pressure. The yield is 81.54 g (80% of theory).

reactant | 1-(4-cyanophenyl)imidazole | 0.33 mol, 56 g | C(#N)C1=CC=C(C=C1)N1C=NC=C1 | C10H7N3
reactant | methyl iodide | 1.65 mol, 234.2 g | CI | CH3I
reactant | ethanol | C(C)O | C2H6O
solvent | water | 560 ml | O | H2O
product | 1-(4-cyanophenyl)-3-methylimidazolium iodide | [I-].C(#N)C1=CC=C(C=C1)[N+]1=CN(C=C1)C | InChI=1S/C11H10N3.HI/c1-13-6-7-14(9-13)11-4-2-10(8-12)3-5-11;/h2-7,9H,1H3;1H/q+1;/p-1
